US07723352B2
3-tert-butyl-8-hydroxy-2-methyl-4-phenylisoquinolin-1(2H)-one
A mixture of 3-tert-butyl-8-methoxy-2-methyl-4-phenylisoquinolin-1(2H)-one (0.500 g) and 48% HBr (15 mL) was heated at reflux overnight. The reaction was concentrated and purified by flash chromatography (10% EtOAc in hexanes) to give the titled compound.

reactant | 3-tert-butyl-8-methoxy-2-methyl-4-phenylisoquinolin-1(2H)-one | 0.500 g | C(C)(C)(C)C=1N(C(C2=C(C=CC=C2C1C1=CC=CC=C1)OC)=O)C | C21H23NO2
reactant | HBr | 15 mL | Br | BrH
product | 3-tert-butyl-8-hydroxy-2-methyl-4-phenylisoquinolin-1(2H)-one | C(C)(C)(C)C=1N(C(C2=C(C=CC=C2C1C1=CC=CC=C1)O)=O)C | C20H21NO2
